US06492370B1
(2S)-2-[3-(2-Hydroxyethyl)-3-phenethylureido]-4-methylvaleric Acid (Compound No. 15-1)
Ethyl (2S)-2-[3-(2-hydroxyethyl)-3-phenethylureido]-4-methylvalerate (Compound No. 1-31, 1.00 g) is dissolved in a mixed solvent of tetrahydrofuran (3.5 ml)-ethanol (2.8 ml). A 2 N aqueous lithium hydroxide solution (1.7 ml) is added thereto under ice cooling, and the mixture is stirred under ice cooling for 25 minutes and further at room temperature for one hour. A 5% aqueous citric acid solution is added to the reaction mixture, and the whole is extracted with ethyl acetate. The organic layer is washed with water and saturated brine successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 1.02 g (quantitatively) of the titled compound (Compound No. 15-1).

reactant | Ethyl (2S)-2-[3-(2-hydroxyethyl)-3-phenethylureido]-4-methylvalerate | OCCN(C(N[C@H](C(=O)OCC)CC(C)C)=O)CCC1=CC=CC=C1 | C19H30N2O4
reactant | lithium hydroxide | 2 N, 1.7 ml | [OH-].[Li+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 2.8 ml | C(C)O | C2H6O
product | (2S)-2-[3-(2-Hydroxyethyl)-3-phenethylureido]-4-methylvaleric Acid | OCCN(C(N[C@H](C(=O)O)CC(C)C)=O)CCC1=CC=CC=C1 | C17H26N2O4
